US04497817
While stirring vigorously a mixture of a solution of 2.0 g of 7-methoxy-2-phenylimidazo[2,1-b]benzothiazole in 50 ml of chloroform and 30 ml of a saturated aqueous sodium hydrogencarbonate solution, a solution of 1.2 g of bromine in 5 ml of chloroform was gradually added dropwise to the mixture at room temperature. Thereafter, the chloroform layer was recovered, dried by anhydrous magnesium sulfate, and concentrated under reduced pressure to form a solid material. The solid product was recrystallized from a mixture of toluene and n-hexane to provide 2.0 g of 3-bromo-7-methoxy-2-phenylimidazo[2,1-b]benzothiazole.

reactant | 7-methoxy-2-phenylimidazo[2,1-b]benzothiazole | 2.0 g | COC1=CC2=C(N3C(S2)=NC(=C3)C3=CC=CC=C3)C=C1 | C16H12N2OS
reactant | bromine | 1.2 g | BrBr | Br2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | sodium hydrogencarbonate | 30 ml | C(O)([O-])=O.[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-bromo-7-methoxy-2-phenylimidazo[2,1-b]benzothiazole | 2.0 g | BrC1=C(N=C2SC3=C(N21)C=CC(=C3)OC)C3=CC=CC=C3 | C16H11BrN2OS
